data/mechanisms/records/IMS8-EQ8.5b.json
{"mechanism_id": "IMS8-EQ8.5b", "species": [{"species_id": "hexanal_radical_cation", "mapped_smiles": "[O+:1]=[CH:2][CH2:3][CH2:4][CH:5]([1H:9])[CH2:6][CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetaldehyde_enol_radical_cation", "mapped_smiles": "[1H:9][O+:1]=[CH:2][CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "but_1_ene_neutral", "mapped_smiles": "[CH2:4]=[CH:5][CH2:6][CH3:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexanal_radical_cation"]}, {"state_id": "state_products", "species_ids": ["acetaldehyde_enol_radical_cation", "but_1_ene_neutral"]}], "steps": [{"step_id": "step_mclafferty_alpha_alpha", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 9]}, "target": {"type": "bond", "atom_maps": [1, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 9]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_mclafferty_alpha_alpha", "support_type": "textbook_proposed", "locator": {"page": 142, "equation": "8.5", "figure": null, "panel": null, "section": "8 / Detailed Mechanisms of Ion Fragmentation"}, "confidence": 0.8, "curator_note": "Eq 8.5, upper scheme, alpha-alpha channel (arrow labelled 'aa'). Radical-driven McLafferty rearrangement of the hexanal molecular ion: the O-centred odd electron abstracts the gamma-H, the resulting C-radical drives Ca-Cb cleavage, and the C2H4O enol fragment retains BOTH charge and radical (IE(enol)=9.2 eV printed right of the dashed line; lowest IE -> base peak). Book draws 4 fishhook arcs (O gamma-H abstraction; Cb=Cg pi formation; Ca-Cb cleavage); moves 1,4,6 correspond to those drawn arcs, moves 2,3,5 are the implicit partner homolysis/pairing hooks required for electron balance (not drawn). Product written as the distonic enol radical cation .CH2-CH=O(+)H; the page draws the resonance form HO-CH=CH2 with +. shown on oxygen. m/z curator-computed; 100% printed. [RECHECK 2026-07-24: arc count corrected 3->4 per a zoomed re-read; the gamma-H abstraction is drawn as TWO barbs (O-radical->H and the gamma C-H bond electron->O-H), not one.]"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_44", "species_id": "acetaldehyde_enol_radical_cation", "step_id": "step_mclafferty_alpha_alpha", "observed_mz": 44.0257, "relative_intensity": 1.0, "hydrogen_shift": 1, "isotope_offset": 0, "status": "observed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
